US07994211B2
j. Hydroxy-di-thiophen-2-yl-acetic acid (1S,2R,4S,7S)-7-({9-[(R)-2-hydroxy-2-(8-hydroxy-2-oxo-1,2-dihydro-quinolin-5-yl)-ethylamino]-nonyl}-methyl-amino)-bicyclo[2.2.1]hept-2-yl ester.
A solution of hydroxy-di-thiophen-2-yl-acetic acid (1S,2R,4S,7S)-7-({9-[(R)-2-(tert-butyldimethylsilanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydro-quinolin-5-yl)ethylamino]-nonyl}methylamino)bicyclo[2.2.1]hept-2-yl ester (72 mg, 0.087 mmol) and triethylamine trihydrofluoride (60 μL, 0.37 mmol) was stirred in THF/DCM (1:1, 2 mL) at ambient temperature overnight. The reaction mixture was neutralised with satd NaHCO3 (aq) and extracted with DCM. The organic layer was concentrated to dryness to afford a green/brown oil, which was purified by preparative HPLC (system 1, 15% B+1% B/min for 20 min, then 6% B/min for 10 min). The fractions containing pure product were concentrated, neutralised with satd NaHCO3 (aq), and extracted with THF. After concentration in vacuo a light brown oil was obtained.

reactant | hydroxy-di-thiophen-2-yl-acetic acid (1S,2R,4S,7S)-7-({9-[(R)-2-(tert-butyldimethylsilanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydro-quinolin-5-yl)ethylamino]-nonyl}methylamino)bicyclo[2.2.1]hept-2-yl ester | 0.087 mmol, 72 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](CNCCCCCCCCCN([C@@H]1[C@H]2[C@@H](C[C@@H]1CC2)OC(C(C=2SC=CC2)(C=2SC=CC2)O)=O)C)C2=C1C=CC(NC1=C(C=C2)O)=O | C44H63N3O6S2Si
reactant | triethylamine trihydrofluoride | 0.37 mmol, 60 μL | F.F.F.C(C)N(CC)CC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF DCM | 2 mL | C1CCOC1.C(Cl)Cl
product | Hydroxy-di-thiophen-2-yl-acetic acid (1S,2R,4S,7S)-7-({9-[(R)-2-hydroxy-2-(8-hydroxy-2-oxo-1,2-dihydro-quinolin-5-yl)-ethylamino]-nonyl}-methyl-amino)-bicyclo[2.2.1]hept-2-yl ester | O[C@@H](CNCCCCCCCCCN([C@@H]1[C@H]2[C@@H](C[C@@H]1CC2)OC(C(C=2SC=CC2)(C=2SC=CC2)O)=O)C)C2=C1C=CC(NC1=C(C=C2)O)=O | C38H49N3O6S2
